** sch_path: /home/subhransu/gitRepo/gf180mcu_ocd_io-sdas/runs/RUN_2026-01-20_18-34-56/parameters/time_response/run_7/io_inv_1_time.sch
**.subckt io_inv_1_time
x1 Vin Vout VDD VSS io_inv_1
V1 VSS GND 0
V2 VDD GND 1.8
V3 Vin GND 0 PULSE(0 1.8 0 1n 1n 10n 20n)
C1 Vout GND 1e-15 m=1
**** begin user architecture code



.include /home/subhransu/share/pdk/gf180mcuD/libs.tech/ngspice/design.ngspice
.lib /home/subhransu/share/pdk/gf180mcuD/libs.tech/ngspice/sm141064.ngspice typical
.include /home/subhransu/gitRepo/gf180mcu_ocd_io-sdas/netlist/schematic/io_inv_1.spice
.temp 130
.option SEED=12345
.option warn=1






.control

op

tran 0.1n 5.0000000000000004e-08

** Rise/Fall 10-90%
meas tran tr1090 TRIG v(Vout) VAL='0.1*1.8' RISE=1 TARG v(Vout) VAL='0.9*1.8' RISE=1
meas tran tf9010 TRIG v(Vout) VAL='0.9*1.8' FALL=1 TARG v(Vout) VAL='0.1*1.8' FALL=1

** Delay Rise Fall
meas tran tdrise TRIG v(vin)  VAL='0.5*1.8' RISE=1 TARG v(vout) VAL='0.5*1.8' RISE=1
meas tran tdfall TRIG v(vin)  VAL='0.5*1.8' FALL=1 TARG v(vout) VAL='0.5*1.8' FALL=1

set wr_singlescale

echo $&tr1090 $&tf9010 $&tdrise $&tdfall > /home/subhransu/gitRepo/gf180mcu_ocd_io-sdas/runs/RUN_2026-01-20_18-34-56/parameters/time_response/run_7/io_inv_1_time_7.data
.endc


**** end user architecture code
**.ends
.GLOBAL GND
.end
